US03940385
4 lbs. dispersing agent (Blancol) were mixed in a paint mixer. 1,000 lbs. of R-200 (duPont) titanium dioxide was treated with 1.5% aluminum resinate by "micronizing" the resinate and pigment together and was added to the water containing the dispersing agent, with good agitation, until the pigment was dispersed in the water. 640 lbs. of vehicle A, 12 lbs. of 6% cobalt naphthenate and 6 lbs. of 12% lead naphthenate were blended and added in a steady stream. The pigment was flushed into the oil phase giving a smooth paste having a ground appearance. A previously prepared blend of emulsifying agents, made by heating 30 lbs. of water to boiling along with 43/4 lbs. naphthenic acid and 211/2 lbs. stearic acid, was formed into soap in situ by adding 51/4 lbs. 2-amino-2-methyl-1-propanol and 2 lbs. of a commercial aqueous ammonia. This soap emulsifying agent was added to the paint along with 151/4 lbs. of a non-ionic emulsifying agent such as Advawet 32 concentrate (Advance Solvents). Following this addition, 640 lbs. of casein solution D was added with agitation. The phase changed upon addition of the emulsifying agents, and the casein stabilized the phase order. The pH of the product was adjusted to 8.5 with ammonia.

reactant | aluminum resinate | CC(C)C1=CC2=CCC3[C@@]([C@H]2CC1)(CCC[C@]3(C)C(=O)[O-])C.CC(C)C1=CC2=CCC3[C@@]([C@H]2CC1)(CCC[C@]3(C)C(=O)[O-])C.CC(C)C1=CC2=CCC3[C@@]([C@H]2CC1)(CCC[C@]3(C)C(=O)[O-])C.[Al+3]
reactant | lead naphthenate | C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].[Pb+2]
catalyst | titanium dioxide | [O-2].[O-2].[Ti+4]
catalyst | cobalt naphthenate | C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].C1=CC=C2C=C(C=CC2=C1)C(=O)[O-].[Co+2]
solvent | water | O | H2O
product | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
